US07064123B1
To a stirred mixture of 4-morpholin-4-yl-4-oxo-2-benzylsulfonylmethyl-butyric acid (230 mg, 0.65 mmol), 2-amino-1-(5-methoxymethyl-[1,3,4]oxadiazol-2-yl)-butan-1-one TFA salt (204 mg), prepared as in reference 15, and HOBt (119 mg, 0.78 mmol) in MeCl2 (5 ml), was added EDC (187 mg, 0.98 mmol) and N-methylmorpholine (0.35 ml) at room temperature. After stirring for 14 hours, the reaction mixture was extracted with ethyl acetate. The organic layer was washed with saturated NaHCO3, brine, dried with MgSO4 and concentrated to yield 82 mg of N-{1-[Hydroxy-(5-methoxymethyl-[1,3,4]oxadiazol-2-yl)-methyl]-propyl}-4-morpholin-4-yl-4-oxo-2-benzylsulfonyl-methyl-butyramide; MS: 537.6(M−1), 539.8 (M+1).

reactant | 4-morpholin-4-yl-4-oxo-2-benzylsulfonylmethyl-butyric acid | 0.65 mmol, 230 mg | N1(CCOCC1)C(CC(C(=O)O)CS(=O)(=O)CC1=CC=CC=C1)=O | C16H21NO6S
reactant | 2-amino-1-(5-methoxymethyl-[1,3,4]oxadiazol-2-yl)-butan-1-one TFA salt | 204 mg | OC(=O)C(F)(F)F.NC(C(=O)C=1OC(=NN1)COC)CC
reactant | HOBt | 0.78 mmol, 119 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 0.98 mmol, 187 mg
reactant | N-methylmorpholine | 0.35 ml | CN1CCOCC1 | C5H11NO
solvent | MeCl2 | 5 ml | C(Cl)Cl | CH2Cl2
product | N-{1-[Hydroxy-(5-methoxymethyl-[1,3,4]oxadiazol-2-yl)-methyl]-propyl}-4-morpholin-4-yl-4-oxo-2-benzylsulfonyl-methyl-butyramide | 82 mg | OC(C(CC)NC(C(CC(=O)N1CCOCC1)(S(=O)(=O)CC1=CC=CC=C1)C)=O)C=1OC(=NN1)COC | C24H34N4O8S
